US06420359B1
e) 8-Bromo-5,11-dihydro-11-ethyl-2-fluoro-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one
To a solution of the 2-chloro-N-{2-(ethylamino)-6-fluoro-3-pyridinyl}-5-bromo-3-pyridinecarboxamide (73.5 g, 216 mmol) in pyridine (435 mL) at 50° C. was added drop-wise a 1 M solution of NaHMDS in THF (520 mL, 520 mmol). After 10 min, the reaction was allowed to cool to room temperature, then poured over ice water (2 L). The resulting solid was filtered, rinse with water and then hexane. The solid was dried under reduced pressure to give the title compound (50.6 g, 69% yield) as a dark green solid.

reactant | 2-chloro-N-{2-(ethylamino)-6-fluoro-3-pyridinyl}-5-bromo-3-pyridinecarboxamide | 216 mmol, 73.5 g | ClC1=NC=C(C=C1C(=O)NC=1C(=NC(=CC1)F)NCC)Br | C13H11BrClFN4O
reactant | NaHMDS | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | THF | 520 mmol, 520 mL | C1CCOC1 | C4H8O
solvent | pyridine | 435 mL | N1=CC=CC=C1 | C5H5N
product | 8-Bromo-5,11-dihydro-11-ethyl-2-fluoro-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one | 50.6 g, 69% yield | BrC1=CC2=C(N(C3=C(NC2=O)C=CC(=N3)F)CC)N=C1 | C13H10BrFN4O
